US06121308
a. 5-Bromomethyl-1-(2-cyanoethyl)-tetrazole
1.50 g (7.85 mmol) of bromoacetic acid-(2-cyanoethyl)-amide are dissolved in 50 ml of methylene chloride and mixed with 508 mg (7.85 mmol) of sodium azide. At 0° C. a solution of 2.20 g (7.85 mmol) of trifluoroacetic acid anhydride in 5 ml of methylene chloride is added dropwise. After 22 hours at ambient temperature saturated sodium hydrogen carbonate solution is added and the resulting mixture is extracted 3 x with methylene chloride. The combined organic phases are dried over sodium sulphate and concentrated by evaporation. The crude product is chromatographed on silica gel, eluting first with methylene chloride, later with methylene chloride/ethanol (50:1). The desired fractions are combined and concentrated by evaporation.

reactant | bromoacetic acid-(2-cyanoethyl)-amide | 7.85 mmol, 1.50 g | C(#N)CCNC(CBr)=O | C5H7BrN2O
reactant | sodium azide | 7.85 mmol, 508 mg | [N-]=[N+]=[N-].[Na+]
reactant | trifluoroacetic acid anhydride | 7.85 mmol, 2.20 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 5-Bromomethyl-1-(2-cyanoethyl)-tetrazole | BrCC1=NN=NN1CCC#N | C5H6BrN5
